US07629375B2
A solution of 5-methyl-[2,2′]bipyridinyl (3.96 g, 23.264 mmol) in CCl4 (80 mL) was bubbled with argon gas. NBS (5.507 g, 30.94 mmol, 1.33 eq) and (PhCOO)2 (0.2922 g, 1.21 mmol, 5 mol %) were added. The mixture was refluxed under argon atmosphere for 2 days. After being cooled to room temperature, the solid was removed by filtration, the filtrate was evaporated, and the residue chromatographed on a silica gel column eluted with a mixed solvent of CH2Cl2 and EtOAc (1:1, v/v). A mixture of three components was obtained (3.88 g). The mixture contained the desired monobromide of 5-(bromomethyl)-[2,2′]bipyridinyl (69.8 wt. %, 10.87 mmol, yield 46.7%), a dibromo by-product (20.2 wt. %, yield 10.3%) and the unreacted starting methylbipyridine (10 wt. %, 9.8% of starting amount). 1H NMR (CDCl3, 300.16 MHz) for the monobromide δ (ppm) 8.71-8.67 (m, 2H), 8.40 (d, J=8.0 Hz, 2H), 7.87-7.80 (m, 2H), 7.35-7.26 (m, 1H) and 4.54 (s, 2H) ppm. MS for the monobromide (ESI) m/z: 249 and 251 (M+).

reactant | 5-methyl-[2,2′]bipyridinyl | 23.264 mmol, 3.96 g | CC=1C=CC(=NC1)C1=NC=CC=C1 | C11H10N2
reactant | NBS | 30.94 mmol, 5.507 g, 1.33 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(bromomethyl)-[2,2′]bipyridinyl | 10.87 mmol, yield 46.7% | BrCC=1C=CC(=NC1)C1=NC=CC=C1 | C11H9BrN2
